US04415580
To 200 ml of concentrated sulfuric acid chilled in an ice bath was added with stirring 37 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile and the reaction mixture was allowed to stand at room temperature overnight. The reaction mixture was then poured on ice (1 liter beaker, half filled), the resulting mixture cooled in an ice bath and then neutralized by adding aqueous ammonium hydroxide, followed by addition of acetic acid to make the mixture slightly acidic. The separated solid was collected, washed with water, air-dried, then recrystallized from a large volume of dimethylformamide (1.2 l.) and dried at 95° C. to yield 28.4 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxamide, m.p. >320° C.

reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile | 37 g | CC1=C2C=C(C(NC2=CC=N1)=O)C#N | C10H7N3O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxamide | 28.4 g | CC1=C2C=C(C(NC2=CC=N1)=O)C(=O)N | C10H9N3O2
